US06703392B2
2-[1-(3,4-Dimethoxy-benzyl)-6-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(naphthalen-1-yl-methyl)-acetamide:
prepared by reaction of 1-(3,4-dimethoxy-benzyl)-6-methoxy-1,2,3,4-tetrahydroisoquinoline and 2-bromoacetyl bromide with 1-napthalenemethylamine

reactant | 1-(3,4-dimethoxy-benzyl)-6-methoxy-1,2,3,4-tetrahydroisoquinoline | COC=1C=C(CC2NCCC3=CC(=CC=C23)OC)C=CC1OC | C19H23NO3
reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 1-napthalenemethylamine | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
product | 2-[1-(3,4-Dimethoxy-benzyl)-6-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(naphthalen-1-yl-methyl)-acetamide | COC=1C=C(CC2N(CCC3=CC(=CC=C23)OC)CC(=O)NCC2=CC=CC3=CC=CC=C23)C=CC1OC | C32H34N2O4
